2194-08-03 10:33:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Cardiomyopathy
   Atrial Fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.4
F - [**2194-8-2**] 08:00 PM
   Patient with wide complex tachycardia this morning--rate=200, AVNRT on
   ECG
   -Adenosine 6mg IV given with return to A-Fib with rate=120 in the
   setting of Lopressor given earlier in morning. Patient did have trigger
   of coughing with intake of breakfast.  Patient left with pads in place
   and continued continuous monitoring as we move to stabilize rate
   control
   -Patient did maintain stable BP throughout event and was able to remain
   verbally interactive and appropriate.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2194-8-2**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2194-8-3**] 02:30 AM
   Tobramycin - [**2194-8-3**] 03:00 AM
   Vancomycin - [**2194-8-3**] 08:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-8-3**] 06:00 AM
   Metoprolol - [**2194-8-3**] 09:27 AM
   Diltiazem - [**2194-8-3**] 09:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2194-8-3**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.9
   HR: 220 (75 - 220) bpm
   BP: 149/103(115) {104/37(60) - 163/103(115)} mmHg
   RR: 35 (18 - 35) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 99 kg (admission): 94.5 kg
             Total In:
                                                                  8,825 mL
                                                                  1,773 mL
   PO:
                                                                  2,070 mL
                                                                    720 mL
   TF:
   IVF:
                                                                  2,255 mL
                                                                  1,053 mL
   Blood products:
   Total out:
                                                                  4,155 mL
                                                                  2,005 mL
   Urine:
                                                                  2,455 mL
                                                                  2,005 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,670 mL
                                                                   -232 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   201 K/uL
   135 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.0 mEq/L
   11 mg/dL
   108 mEq/L
   134 mEq/L
   27.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2194-8-2**]  01:49 PM
                             [**2194-8-3**]  04:25 AM
   WBC
   17.7
   13.1
   Hct
   27.6
   27.6
   Plt
   222
   201
   Cr
   0.6
   0.5
   TropT
   0.05
   0.05
   Glucose
   159
   135
   Other labs: CK / CKMB / Troponin-T:1447/11/0.05, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.3 mg/dL
   Microbiology: Blood-_GNR in urine
   ECG: Pt wtih A-Fib this morning
   She had AVNRT noted earlier this morning
   She has baseline SR with LBBB seen
   Assessment and Plan
   67 yo female with history of significant cardiomyopathy and now
   admitted with urinary source of sepsis.  She has had evolution of
   significant tachycardia this morning in the setting of cough and airway
   compromise with bacon.  This did terminate with adenosine intervention
   and patient remained with stable blood pressure throughout.
   1)Sepsis-GNR seen in blood with concern for E. Coli from urinary source
   raised
   -Continue with Vanco/Zosyn
   -Follow up culture results
   2)Atrial Fibrillation--Patient with triggered tachycardia noted this
   morning with resultion with adenosine
   -Will continue with Lopressor for rate control at 25 mg [**Hospital1 7**] vs.
   Diltiazem gtt for closer rate control is po beta blocker unable to
   stabilize rate
   -In the setting of cardiomyopathy will need to consider possible AICD
   placement over longer term.
   -Will need to obtain old records to consider past interventions and
   treatment
   -A-fib is sudden onset this morning
   -WIll need ECHO
   ICU Care
   Nutrition: move to soft solid diet and speech and swallow
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-8-2**] 03:28 AM
   20 Gauge - [**2194-8-2**] 11:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes

2194-08-04 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Problems sleeping. [**Name2 (NI) 1490**] Trazodone 50 mg qHs.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2194-8-2**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2194-8-3**] 02:30 AM
   Piperacillin - [**2194-8-3**] 08:16 PM
   Vancomycin - [**2194-8-3**] 09:06 PM
   Tobramycin - [**2194-8-4**] 03:05 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2194-8-3**] 09:27 AM
   Adenosine - [**2194-8-3**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2194-8-4**] 05:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-8-4**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.9
C (100.2
   HR: 96 (80 - 220) bpm
   BP: 108/54(90) {102/30(48) - 159/104(115)} mmHg
   RR: 28 (17 - 39) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 99 kg (admission): 94.5 kg
             Total In:
                                                                  4,050 mL
                                                                    975 mL
   PO:
                                                                  2,560 mL
                                                                    820 mL
   TF:
   IVF:
                                                                  1,490 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  4,585 mL
                                                                  1,565 mL
   Urine:
                                                                  4,585 mL
                                                                  1,565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -535 mL
                                                                   -590 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General: Patient found in bed. A & O x3 in NAD.
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   Neck: supple, JVP to angle of the jaw, no LAD
   Chest:  healed thoracotomy scar
   Lungs: CTA B. No rhonchi, wheezes or crackles.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: obese, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: No c/c/e.
   Labs / Radiology
   206 K/uL
   9.0 g/dL
   135 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.1 mEq/L
   9 mg/dL
   112 mEq/L
   139 mEq/L
   27.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2194-8-2**]  01:49 PM
                             [**2194-8-3**]  04:25 AM
                             [**2194-8-4**]  03:37 AM
   WBC
   17.7
   13.1
   11.0
   Hct
   27.6
   27.6
   27.0
   Plt
   222
   201
   206
   Cr
   0.6
   0.5
   0.5
   TropT
   0.05
   0.05
   Glucose
   159
   135
   135
   Other labs: CK / CKMB / Troponin-T:1447/11/0.05, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.0 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   This is a 67 year-old female with DMII, who presents with fever,
   altered mental status, hypotension, and UTI.
   .
   # Atrial fibrillation: After the patient was converted from wide
   complex tachycardia caused by choking on food, she went into an atrial
   fibrillation rhythm. In order to decrease tachycardia, patient was
   given a totla of metoprolol 25 mg IV and 12.5 mg PO.
   --Change patient to metoprolol tartrate 50 mg PO TID. Called patient
   pharmacy and unsure of the current dose of metoprolol.
   --Mechanical soft diet
   --Order TTE.
   --get old records from [**Hospital1 403**] doctor ([**Doctor Last Name 8863**]: [**Telephone/Fax (1) 8864**])
   --speech and swallow evaluation
   --continue to treat infection.
   #  GNR sepsis:  Pt fits criteria for sepsis with likely urinary
   source.  UA was floridly positive with pending culture.  Blood cx had
   GNR, pending sensitivities.  CXR was negative.  She was hypotensive in
   the ED, but fluid responsive and now normotensive on arrival to the
   [**Hospital Unit Name 1**].  Lactate 1.4.
   - cover with vanco, tobramycin, ampicillin/tazobactam for UTI. Will
   continue Vanco for 72 hours until speciation.
   - Will measure Tobramycin levels in AM.
   - monitor fever curve and WBC
   - bolus with IVF prn for MAP<60 or UOP<30cc/h
   - culture if spikes
   - tylenol prn for fever
   - f/u urine and blood cx
   .
   # AMS: Patient currently oriented. Likely delirium secondary to
   infection. Could also be due to polypharmacy.
   - Treat infection as above
   - D/C ambien
   .
   Psychiatric: Patient taking multiple psych meds at home.
   -Start Wellbutrin SR 200 mg [**Hospital1 7**], Venlafaxine 75 mg [**Hospital1 7**], Risperdal 2mg
   [**Hospital1 7**]
   -D/c home ambien. Holding home trazodone 150 mg 1-2 tabs qHs.
   -call psych consult on [**Hospital1 1088**]
   .
   #Troponin levels: Patient has had a steady troponin level of 0.05 with
   CK/CK-MB rise and fall. No complaints of chest pain or EKG changes
   concerning for ischemia.
   - Continue to monitor.
   .
   #  DMII:  Received 4 units of Humalog. Per report, she is
   insulin-dependent but dose of insulin is not known at this time.
   - will cover with HISS and assess requirements for long-acting insulin
   #  Anion gap:  Resolved. Metabolic acidosis is likely secondary to mild
   ketoacidosis.
   - cont to monitor
   ICU Care
   Nutrition: Regular, soft, thickened
   Glycemic Control:
   Lines:
   20 Gauge - [**2194-8-2**] 11:30 PM
   Prophylaxis:
   DVT: SC heparin, pneumoboots
   Stress ulcer: None since eating
   VAP:
   Comments:
   Communication:  Comments:  Contacts: psych ([**Last Name (un) 8865**]), PCP: [**Name10 (NameIs) 8863**] at [**Hospital1 403**]
   ([**Telephone/Fax (1) 8864**]). need to call contacts on [**Name (NI) 1088**], caregiver [**Name (NI) 374**]
   [**Telephone/Fax (1) 8833**] (pt does not recall area code), son [**Name (NI) **] [**Telephone/Fax (1) 8834**]
   [**Name2 (NI) 36**] status: presumed full
   Disposition: will go to floors today